US07491732B2
To a stirred solution of thiomorpholine (2.00 mL, 20 mmol) and Et3N (5.0 mL) in CH2Cl2 (60 mL) was added drop wise a solution of 4-nitrobenzoyl chloride (3.71 g, 20 mmol) in CH2Cl2 (50 mL) at 0° C. The reaction was allowed to stir at room temperature for over night and then washed with a saturated NaHCO3 solution (2×75 mL), and water (2×75 mL). The CH2Cl2 layer was dried (Na2SO4) and filtered and concentrated. Finally dried under high vacuum to afford 5.027 g (99%) of the 4-(4-nitrobenzoyl)thiomorpholine. 1H NMR (CDCl3, 300 MHz): δ 8.28 (d, 2H, J=9.0 Hz), 7.54 (d, 2H, J=8.7 Hz), 4.04 (br s, 2H), 3.61 (br s, 2H), 2.75 (br s, 2H), 2.57 (br s, 2H); LCMS (m/z): 253 (MH+).

reactant | thiomorpholine | 20 mmol, 2.00 mL | N1CCSCC1 | C4H9NS
reactant | Et3N | 5.0 mL | CCN(CC)CC | C6H15N
reactant | 4-nitrobenzoyl chloride | 20 mmol, 3.71 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-nitrobenzoyl)thiomorpholine | 5.027 g, 99% | [N+](=O)([O-])C1=CC=C(C(=O)N2CCSCC2)C=C1 | C11H12N2O3S
